US07446216B2
7-Bromo-2,5-dimethyl-1H-indene
To a solution of 32.5 g (136 mmol) of 4-bromo-2,6-dimethylindan-1-one in 370 ml of a mixture of THF-methanol (2:1, vol.), 11.8 g (312 mmol) of NaBH4 was added in small portions while vigorously stirring for 2 h at 0° C. This mixture was stirred for 12 h at room temperature and then added to 1000 ml of cold water. The organic layer was separated, the aqueous layer was extracted with 3×300 ml of methyl-tert-butyl ether. The combined organic fractions were dried over K2CO3 and then evaporated to dryness. The residue was dissolved in 700 ml of toluene, and 2.0 g of p-TosOH was added. The resulting solution was refluxed for 1 h using a Dean-Stark trap to remove the water formed, and then it was passed through a short Silica Gel 60 column (40-63 um, d 100 mm, l 80 mm, eluent: hexanes). This column was additionally washed with 250 ml of toluene. The combined organic fractions were evaporated to dryness. The product was isolated by flash chromatography on Silica Gel 60 (40-63 um, d 60 mm, l 150 mm, eluent: hexanes). Yield 24.6 g (81%).

reactant | 4-bromo-2,6-dimethylindan-1-one | 136 mmol, 32.5 g | BrC1=C2CC(C(C2=CC(=C1)C)=O)C | C11H11BrO
reactant | THF methanol | C1CCOC1.CO
reactant | NaBH4 | 312 mmol, 11.8 g | [BH4-].[Na+]
solvent | water | 1000 ml | O | H2O
product | 7-Bromo-2,5-dimethyl-1H-indene | BrC=1C=C(C=C2C=C(CC12)C)C | C11H11Br
